US20010046970A1
A sulfated lipid, the 1,4-dihexadecyl ester of sulfosuccinic acid, is prepared as follows: a mixture of maleic anhydride and hexadecyl alcohol in toluene with a few drops of concentrated sulfuric acid is heated with azeotropic removal of water for 3 h. The dihexadecyl maleate is recrystallized, then heated with an equimolar amount of NaHSO3 in water at 100° C. for 2-3 h. The product is recovered by evaporating the water and extracting the lipid into methanol (Kunitake et al., supra). Alkyl sulfonates may be synthesized as follows. A lipid alcohol is obtained from Sigma, or the acid group of a fatty acid is reduced to an alcohol by reacting with lithium aluminum hydride in ether to convert the carboxylate into an alcohol. The alcohol can be converted into a bromide by reaction with triphenylphosphine and carbon tetrabromide in methylene chloride. The bromide is then reacted with bisulfite ion to yield the alkyl sulfonate. Sulfates may be prepared by reacting an activated fatty acid with a sulfate-containing amine. For example, the N-hydroxysuccinimide ester of 10,12-pentacosadiynoic acid is reacted with taurine to yield N-10,12-pentacosadiynoyl taurine. Sulfates may also be prepared by reacting an alcohol, e.g. lauryl alcohol, with sulfur trioxide-trimethylamine complex in anhydrous dimethylformamide for 2.5 h (Bertozzi et al., Biochemistry 34:14271, 1995).

reactant | sulfate | S(=O)(=O)([O-])[O-]
reactant | 10,12-pentacosadiynoic acid | C(CCCCCCCCC#CC#CCCCCCCCCCCCC)(=O)O | C25H42O2
reactant | taurine | NCCS(=O)(=O)O | C2H7NO3S
product | N-10,12-pentacosadiynoyl taurine | C(CCCCCCCCC#CC#CCCCCCCCCCCCC)(=O)NCCS(=O)(=O)O | C27H47NO4S
